US09334269B2
To a solution of 3-((2-chloro-5-fluoropyrimidin-4-yl)amino)-N-methylbenzamide (500 mg, 1.78 mmoL) and 3-(4-fluorophenoxy)azetidine (298 mg, 1.78 mmol) in DMA (6 mL, 3 mL/mmoL) was added cesium carbonate (580 mg, 2.67 mmol) and the reaction was degassed for 15 min. Pd2(dba)3 (80 mg, 0.089 mmol) and BINAP (55 mg, 0.089 mmol) and the reaction was allowed to heat at 100° C. in the microwave. The reaction was quenched with water and extracted with EtOAc (2×25 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure then purified by silica gel column chromatography to give 3-((5-fluoro-2-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-4-yl)amino)-N-methylbenzamide (97 mg, 15%) as solid. Observed mass (M+1): 412.1

reactant | 3-((2-chloro-5-fluoropyrimidin-4-yl)amino)-N-methylbenzamide | 500 mg | ClC1=NC=C(C(=N1)NC=1C=C(C(=O)NC)C=CC1)F | C12H10ClFN4O
reactant | 3-(4-fluorophenoxy)azetidine | 1.78 mmol, 298 mg | FC1=CC=C(OC2CNC2)C=C1 | C9H10FNO
reactant | cesium carbonate | 2.67 mmol, 580 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.089 mmol, 55 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.089 mmol, 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-((5-fluoro-2-(3-(4-fluorophenoxy)azetidin-1-yl)pyrimidin-4-yl)amino)-N-methylbenzamide | 97 mg, 15% | FC=1C(=NC(=NC1)N1CC(C1)OC1=CC=C(C=C1)F)NC=1C=C(C(=O)NC)C=CC1 | C21H19F2N5O2
